US06495546B1
To a solution of N-(3-fluoromethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-2-hydroxy-3-phenoxypropyl]-tert-butoxycarbonylamine (41 mg) in ethyl acetate (2 ml) was added 4N hydrogen chloride in ethyl acetate (0.45 ml) at room temperature, and the mixture was stirred at the same temperature for 5.5 hours. The mixture was poured into a mixture of saturated aqueous sodium hydrogencarbonate and ethyl acetate, followed by being made basic with saturated aqueous sodium hydrogencarbonate. After separation, the organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (silica gel, chloroform:methanol=10:1) to give (2S)-1-(3-fluoromethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol (23 mg).

reactant | N-(3-fluoromethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-2-hydroxy-3-phenoxypropyl]-tert-butoxycarbonylamine | 41 mg | FCOC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O)C(=O)OC(C)(C)C)C=C1 | C26H34FNO5
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.45 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-1-(3-fluoromethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino-3-phenoxy-2-propanol | 23 mg | FCOC1=CC2=C(CCCC(C2)NC[C@@H](COC2=CC=CC=C2)O)C=C1 | C21H26FNO3
